US08198466B2
Step 1: (2-Benzylamino-7-hydroxy-6-methoxy-benzofuran-3-yl)-(3,4,5-trimethoxy-phenyl)-methanone
2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran (140 mg, 0.29 mmol) was dissolved in dry pyridine (2 mL) and benzylamine (500 μL, excess) was added to it and the reaction mixture was stirred at 80° C. for 1 hour. Solvent was distilled and the crude product was purified over silica gel column to afford the title compound as light yellow solid (112 mg, 83%); 1H NMR (300 MHz, CDCl3) δ: 9.27(b, 1H, NH), 7.39-7.32(m, 5Hs, Ar Hs), 6.96(s, 2H, benzoyl Hs), 6.61(d, 1H, J=8.47 Hz), 6.50(d, 1H, J=8.10 Hz), 4.83(d, 2H, J=4.95 Hz, Benzyl Hs), 3.91(s, 3H, OMe), 3.85(s, 3H, OMe), 3.84(s, 6H, 2×OMe).

reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | 0.29 mmol, 140 mg | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | benzylamine | 500 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (2-Benzylamino-7-hydroxy-6-methoxy-benzofuran-3-yl)-(3,4,5-trimethoxy-phenyl)-methanone | 112 mg, 83% | C(C1=CC=CC=C1)NC=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=CC(=C2O)OC | C26H25NO7
